US06025350
5-Azido-5-(2-methoxyphenyl)-1-pentene
To a solution of crude 5-hydroxyl-5-(2-methoxyphenyl)-1-pentene, prepared as described above, in toluene (150 mL) at 0° to 40° C. was added diphenylphosphoryl azide (25.86 mL, 120 mmol) followed by DBU (17.95 mL, 120 mmol) and the resulting reaction mixture was stirred at room temperature (20° C. to 25° C.) for 28 hours. H2O was added, the aqueous layer was extracted with ether (x4), and the combined organic layers were washed with H2O (x2), 0.5N HCl (x2) and brine (x2), dried over MgSO4 and evaporated in vacuao. The crude product was purified by silica gel flash chromatography (5% EtOAc-95% hexanes) to provide the title compound as a colorless liquid (14 g). 1H NMR (CDCl3, 400 MHz) δ: 6.8-7.4 (4H), 5.8 (1H) (2H), 3.83 (3H, OMe), 1.8-2.2 (4H), 5.0

reactant | 5-hydroxyl-5-(2-methoxyphenyl)-1-pentene | OC(CCC=C)C1=C(C=CC=C1)OC | C12H16O2
reactant | diphenylphosphoryl azide | 120 mmol, 25.86 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 120 mmol, 17.95 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | H2O | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Azido-5-(2-methoxyphenyl)-1-pentene | 14 g | N(=[N+]=[N-])C(CCC=C)C1=C(C=CC=C1)OC | C12H15N3O
